US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride and 3-phenoxypropyl chloride were reacted and treated in the same manner as in Example 168 to give 4-amino-5-chloro-2-methoxy-N-((1-(3-(phenoxy)propyl)piperidin-4-yl)methyl)benzamide.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | 3-phenoxypropyl chloride | O(C1=CC=CC=C1)CCCCl | C9H11ClO
product | 4-amino-5-chloro-2-methoxy-N-((1-(3-(phenoxy)propyl)piperidin-4-yl)methyl)benzamide | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCOC2=CC=CC=C2)C=C1Cl)OC | C23H30ClN3O3
